US04246429
Gaseous hydrogen chloride is introduced for 11 hours through a stirred and refluxing solution of 17.3 parts of (±)-2-(2,6-dichlorophenyl)-N-(2-naphthyl)glycine in 96 parts of methanol. The reaction mixture is allowed to cool overnight to room temperature. The precipitated product is filtered off and crystallized from methanol, yielding 6.4 parts of (±)-methyl 2-(2,6-dichlorophenyl)-N-(2-naphthyl) glycine; mp. 143.5° C.

reactant | hydrogen chloride | Cl | ClH
reactant | (±)-2-(2,6-dichlorophenyl)-N-(2-naphthyl)glycine | ClC1=C(C(=CC=C1)Cl)C(NC1=CC2=CC=CC=C2C=C1)C(=O)O | C18H13Cl2NO2
reactant | methanol | CO | CH4O
product | (±)-methyl 2-(2,6-dichlorophenyl)-N-(2-naphthyl) glycine | CN(C(C(=O)O)C1=C(C=CC=C1Cl)Cl)C1=CC2=CC=CC=C2C=C1 | C19H15Cl2NO2
